US08492395B2
To a stirred mixture of 5-amino-isatoic anhydride (1.0 g, 5.6 mmol) and triethyl amine (0.8 mL, 9.0 mmol) in acetronitrile (15 mL), was added benzyloxyacetyl chloride (0.87 mL, 5.6 mmol) dropwise at room temperature. The mixture was kept at room temperature overnight. To the mixture, was added triethylamine (3.1 mL, 22 mmol), 3-amino-piperidine-2,6-dione hydrogen chloride (0.92 g, 5.6 mmol), and acetic acid (3.2 mL, 56 mmol). The mixture was heated at 80° C. for 8 hours. To the mixture, was added water (75 mL). The suspension was filtered and washed with water (75 mL) and ethyl acetate (75 mL) to give a dark solid, which was purified with column chromatography (Silica Gel, methanol/methylene chloride 0% to 10% in 15 min) to give 2-amino-5-(2-benzyloxy-acetylamino)-N-(2,6-dioxo-piperidin-3-yl)-benzamide as a white solid (0.28 g, 12% yield): 1H NMR (DMSO-d6) δ 1.92-2.18 (m, 2H, 2CHH), 2.50-2.55 (m, 1H, CHH), 2.72-2.84 (m, 1H, C H), 4.03 (s, 2H, CH2), 4.61 (s, 2H, CH2), 4.68-4.77 (m, 1H, NCH), 6.19 (br, 2H, NH2), 6.68 (d, J=9 Hz, 1H, Ar), 7.30-7.42 (m, 6H, Ar), 7.62 (d, J=2 Hz, 1H, Ar), 8.43 (d, J=8 Hz, 1H, NH), 9.44 (s, 1H, NH), 10.84 (s, 1H, NH); 13C NMR (DMSO-d6) δ 24.09, 30.96, 49.12, 69.37, 72.35, 114.27, 116.23, 121.11, 125.99, 126.13, 127.64, 127.77, 128.27, 137.68, 146.19, 167.28, 168.36, 172.35, 173.01.

reactant | 5-amino-isatoic anhydride | 5.6 mmol, 1.0 g | NC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H6N2O3
reactant | triethyl amine | 9.0 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | benzyloxyacetyl chloride | 5.6 mmol, 0.87 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | triethylamine | 22 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 5.6 mmol, 0.92 g | Cl.NC1C(NC(CC1)=O)=O
reactant | acetic acid | 56 mmol, 3.2 mL | C(C)(=O)O | C2H4O2
solvent | water | 75 mL | O | H2O
product | 2-amino-5-(2-benzyloxy-acetylamino)-N-(2,6-dioxo-piperidin-3-yl)-benzamide | 0.28 g, 12% yield | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C=C(C=C1)NC(COCC1=CC=CC=C1)=O | C21H22N4O5
